US06656968B1
Z-3-Hydroxystyryl 2-acetoxyphenylsulfide
A solution of 2-acetoxythiophenol (10 mmol), 3-hydroxy-phenylacetylene (10 mmol) and sodium (0.01 g atom) was subjected to the General Procedure. The title compound was obtained in 78% yield.

reactant | 2-acetoxythiophenol | 10 mmol | C(C)(=O)OC1=C(C=CC=C1)S | C8H8O2S
reactant | 3-hydroxy-phenylacetylene | 10 mmol | OC=1C=C(C=CC1)C#C | C8H6O
reactant | sodium | 0.01 g | [Na] | Na
product | Z-3-Hydroxystyryl 2-acetoxyphenylsulfide | 78% yield | OC=1C=C(\C=C/C=2C(=C(C=CC2)SC2=C(C(=CC=C2)\C=C/C2=CC(=CC=C2)O)OC(C)=O)OC(C)=O)C=CC1 | C32H26O6S
